US07781438B2
Preparation of Trifluoro-methanesulfonic acid 7-chloro-2-methyl-quinolin-8-yl ester
2,6-Lutidine (4.43 g, 41.32 mmol, 2.5 equiv) were added at room temperature under an atmosphere of argon to a solution of 7-chloro-2-methyl-quinolin-8-ol (3.20 g, 16.53 mmol) in anhydrous CH2Cl2 (65 ml). At 0° C., trifluoromethanesulfonic anhydride (5.60 g, 19.83 mmol, 1.2 equiv) was added dropwise, and the resulting solution was stirred at 0° C. for 10 minutes. The reaction mixture was diluted with water, and the aqueous phase was extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified via flash chromatography (gradient of hexane/EtOAc 100:0 to 80:20) to afford the title compound (1.86 g, 35%). 1H NMR (400 MHz, CDCl3): δ=8.05 (d, J=8.6 Hz, 1H), 7.71 (d, J=8.7 Hz, 1H), 7.52 (d, J=8.9 Hz, 1H), 7.38 (d, J=8.5 Hz, 1H), 2.78 (s, 3H). MS (ES+): 326 (M+H)+.

reactant | 2,6-Lutidine | 41.32 mmol, 4.43 g, 2.5 equiv | N1=C(C=CC=C1C)C | C7H9N
reactant | 7-chloro-2-methyl-quinolin-8-ol | 16.53 mmol, 3.20 g | ClC1=CC=C2C=CC(=NC2=C1O)C | C10H8ClNO
reactant | trifluoromethanesulfonic anhydride | 19.83 mmol, 5.60 g, 1.2 equiv | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 65 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | Trifluoro-methanesulfonic acid 7-chloro-2-methyl-quinolin-8-yl ester | 1.86 g, 35% | ClC1=CC=C2C=CC(=NC2=C1OS(=O)(=O)C(F)(F)F)C | C11H7ClF3NO3S
